US08357679B2
A: 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrophenyl)piperazin-1-yl)methyl)phenyl)propan-2-ol
A mixture of 1-(4-nitrophenyl)piperazine (19.30 mmol, 4 g), 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (19.30 mmol, 6.51 g) and potassium carbonate (19.30 mmol, 2.67 g) in acetonitrile (10 mL) was refluxed for 20 hours and was then concentrated under reduced pressure. Dichloromethane was added and the insolubles were filtered off. The filtrate was chromatographed on silica eluting with a gradient of dichloromethane to dichloromethane/ethyl acetate (10%) to give the title compound (8 g).

reactant | 1-(4-nitrophenyl)piperazine | 19.30 mmol, 4 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 19.30 mmol, 6.51 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 19.30 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrophenyl)piperazin-1-yl)methyl)phenyl)propan-2-ol | 8 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C20H19F6N3O3
